US05344843
A mixture of 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester (0.256 g) in dimethylformamide (4 mL) under argon was treated with 55% sodium hydride (0.06 g), stirred for 15 minutes and then the above 1-(2-bromo-1-oxoethyl)-4-[2-[2-(trifluoromethyl)phenyl]ethyl]piperazine (0.5 g) in dimethylformamide (2 mL) was added. The mixture was stirred at room temperature for 23 hours and worked up as in Example 20. The crude product was purified by flash chromatography over silica gel (ethyl acetate-toluene; 1:1 increasing to 4:1) to afford 0.21 g of alpha-oxo-4-[2-oxo-2-[4-[2-[2-(trifiuoromethyl)phenyl]ethyl]-1-piperazinyl]ethoxy]-benzeneacetic acid ethyl ester as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester | 0.256 g | C(C)OC(C(C1=CC=C(C=C1)O)=O)=O | C10H10O4
reactant | sodium hydride | 0.06 g | [H-].[Na+]
reactant | 1-(2-bromo-1-oxoethyl)-4-[2-[2-(trifluoromethyl)phenyl]ethyl]piperazine | 0.5 g | BrCC(=O)N1CCN(CC1)CCC1=C(C=CC=C1)C(F)(F)F | C15H18BrF3N2O
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | alpha-oxo-4-[2-oxo-2-[4-[2-[2-(trifiuoromethyl)phenyl]ethyl]-1-piperazinyl]ethoxy]-benzeneacetic acid ethyl ester | 0.21 g | C(C)OC(C(C1=CC=C(C=C1)OCC(N1CCN(CC1)CCC1=C(C=CC=C1)C(F)(F)F)=O)=O)=O | C25H27F3N2O5
